US05968967
Ethyl 3-(4-iodophenyl)-3-chloro-2-ethoxycarbonylacrylate
A mixture of 28.3 g of diethyl 4-iodobenzoylmalonate, 14.6 g of diisopropylethylamine and 20 ml of phosphorus oxychloride was stirred at 100° C. for 2 hours and then poured over ice. The reaction mixture was extracted with diethyl ether, and the extract was dried over magnesium sulfate, treated with activated carbon, filtered and then concentrated at atmospheric pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give 20.14 g of the title compound as a pale yellow liquid.

reactant | diethyl 4-iodobenzoylmalonate | 28.3 g | IC1=CC=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C1 | C14H15IO5
reactant | diisopropylethylamine | 14.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 3-(4-iodophenyl)-3-chloro-2-ethoxycarbonylacrylate | 20.14 g | IC1=CC=C(C=C1)C(=C(C(=O)OCC)C(=O)OCC)Cl | C14H14ClIO4
